US04187248
The intermediate, 4-methoxy formanilide is prepared by heating 369.6 parts by weight (3.0 mole) of para anisidine to 90° C. and adding to it 147 parts by weight (3.1 mole) of 97% formic acid over a period of 80 minutes at 95°-105° C. under reflux conditions. A water trap is then installed and heating continued at 91°-111° C. for about 5 hours while collecting water. Toluene is added to aid the removal of water. The reaction mixture is cooled, crystallization induced by scratching, and heptane added. The crystalline mass is cooled to 5° C. and filtered to obtain, after air drying 447.6 parts by weight of 4-methoxy formanilide as a purple solid.

reactant | para anisidine | 3.0 mole | COC1=CC=C(C=C1)N | C7H9NO
reactant | formic acid | 3.1 mole | C(=O)O | CH2O2
product | 4-methoxy formanilide | COC1=CC=C(C=C1)NC=O | C8H9NO2
